US06713471B1
To a solution of 1-bromo-3-chloropropane (2.00 g, 12.7 mmol) in DMF (7.0 mL) was added indole (500 mg, 4.24 mmol) followed by powdered KOH (262 mg, 4.66 mmol) at 20° C. The reaction mixture was then stirred for 15 h at 20° C. The reaction was quenched by addition of H2O and the product was extracted with Et2O. The organic solution was washed with H2O and brine, dried over MgSO4, filtered and concentrated in vacuo. 1-(3-Chloro-1-propyl)indole (580 mg, 71%) was isolated by flash chromatography on a silica gel column by elution with EtOAc/Hexanes a pale yellow oil. 1H NMR (CDCl3, 300 MHz) δ2.28 (qu, 2H, J=6.3 Hz), 3.46 (t, 2H, J=6.2 Hz), 4.36 (t, 2H, J=6.6 Hz), 6.51 (d, 1H, J=3.3 Hz), 7.09-7.18 (m, 2H), 7.20-7.25 (m, 1H), 7.38 (d, 1H, J=8.5 Hz), 7.64 (d, 1H, J=7.7 Hz) ppm.

reactant | 1-bromo-3-chloropropane | 12.7 mmol, 2.00 g | BrCCCCl | C3H6BrCl
reactant | indole | 4.24 mmol, 500 mg | N1C=CC2=CC=CC=C12 | C8H7N
reactant | KOH | 4.66 mmol, 262 mg | [OH-].[K+]
solvent | DMF | 7.0 mL | CN(C)C=O | C3H7NO
product | 1-(3-Chloro-1-propyl)indole | 580 mg, 71% | ClCCCN1C=CC2=CC=CC=C12 | C11H12ClN
